US04168379
4-α-Phenylethyl-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol is prepared, using the method described in Example 13, by reacting 2-α-phenylethyl-4-methyloxazole and 3-methylsulfonyl-2,5-dihydrofuran; melting point 163° C.

reactant | 2-α-phenylethyl-4-methyloxazole | C1(=CC=CC=C1)C(C)C=1OC=C(N1)C | C12H13NO
reactant | 3-methylsulfonyl-2,5-dihydrofuran | CS(=O)(=O)C=1COCC1 | C5H8O3S
product | 4-α-Phenylethyl-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol | C1(=CC=CC=C1)C(C)C1=NC(=C(C2=C1COC2)O)C | C16H17NO2
